US05470878
A solution of 3-(5-hexenyl)-1-methyluracil (598 mg, 2.9 mmol), 4-methylmorpholine-N oxide (408 mg, 3.5 mmol), and a 2.5% solution of osmium tetroxide in t-butanol (3 drops) in acetone (15 ml) and water (5 ml) was stirred for 3 days. Saturated aqueous sodium hydrosulfite solution (10 ml) was added and the mixture was stirred for 15 minutes. Water (50 ml) was added and the mixture was extracted with 20% ethanol-dichloromethane (4×40 ml). The combined organic layers were dried over sodium sulfate and the solvents were evaporated under vacuum to give 3-(5,6-dihydroxyhexyl)-1-methyluracil (461 mg, 66% yield) as a colorless oil.

reactant | 3-(5-hexenyl)-1-methyluracil | 2.9 mmol, 598 mg | C(CCCC=C)N1C(N(C=CC1=O)C)=O | C11H16N2O2
reactant | 4-methylmorpholine-N oxide | 3.5 mmol, 408 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 5 ml | O | H2O
reactant | sodium hydrosulfite | 10 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Water | 50 ml | O | H2O
catalyst | t-butanol | 3 drops | C(C)(C)(C)O | C4H10O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 3-(5,6-dihydroxyhexyl)-1-methyluracil | 461 mg, 66% yield | OC(CCCCN1C(N(C=CC1=O)C)=O)CO | C11H18N2O4
